US05656629
Sodium (0.11 g) was dissolved in ethanol and then 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (0.49 g, 2.21 mmol) was added, followed 10 minutes later by ethyl 3-pyridinylacetate (0.73 g) in ethanol (2 mL). The reaction mixture was refluxed overnight, additional 3-pyridinylacetate (0.35 g) was added and the reaction mixture was again refluxed overnight. The reaction mixture was cooled to room temperature, the solvent was stripped and the residue was dissolved in water and treated with acetic acid (to pH of 7). The mixture was extracted with CHCl3 (3×50 mL), the organic layers were combined, dried over MgSO4 and stripped to a pale yellow oil. The oil was crystallized by the addition of ether and the product was collected by filtration and washed with ether to afford 0.4 g of 1-cyclopentyl-3-ethyl-6-[3-pyridinylmethyl]pyrazolo[3,4-d]pyrimidin-4-one.

reactant | Sodium | 0.11 g | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 2.21 mmol, 0.49 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | ethyl 3-pyridinylacetate | 0.73 g | N1=CC(=CC=C1)CC(=O)OCC | C9H11NO2
reactant | 3-pyridinylacetate | 0.35 g | N1=CC(=CC=C1)CC(=O)[O-]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | acetic acid | pH of 7 | C(C)(=O)O | C2H4O2
product | 1-cyclopentyl-3-ethyl-6-[3-pyridinylmethyl]pyrazolo[3,4-d]pyrimidin-4-one | 0.4 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC=2C=NC=CC2)CC | C18H21N5O
